US09278931B2
N-(4-{trans-2-[bis(cyclopropylmethyl)amino]cyclopropyl}phenyl)biphenyl-4-carboxamide hydrochloride
To a solution of N-[4-(trans-2-aminocyclopropyl)phenyl]biphenyl-4-carboxamide hydrochloride (100 mg) in methanol (5.4 mL) were added acetic acid (0.6 mL), cyclopropanecarbaldehyde (0.023 mL) and 2-picoline-borane complex (44 mg). The mixture was stirred at room temperature for 21 hr, and DMF (4 mL) and 2-picoline-borane complex (29.3 mg) were added. The mixture was stirred at room temperature for 2 hr, and cyclopropanecarbaldehyde (0.010 mL) was added. The mixture was stirred at room temperature for 3 hr, and cyclopropanecarbaldehyde (0.008 mL) was added. The mixture was stirred at room temperature for 1 hr, water and ethyl acetate were added, and the mixture was concentrated under reduced pressure. To the residue was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted twice with ethyl acetate. The extracts were combined, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), and 10% hydrochloric acid methanol solution (1.0 mL) was added to the obtained product. The solvent was evaporated under reduced pressure to give the title compound (26.1 mg).

reactant | N-[4-(trans-2-aminocyclopropyl)phenyl]biphenyl-4-carboxamide hydrochloride | 100 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1
reactant | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
reactant | cyclopropanecarbaldehyde | 0.023 mL | C1(CC1)C=O | C4H6O
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | cyclopropanecarbaldehyde | 0.010 mL | C1(CC1)C=O | C4H6O
reactant | cyclopropanecarbaldehyde | 0.008 mL | C1(CC1)C=O | C4H6O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5.4 mL | CO | CH4O
solvent | water | O | H2O
product | N-(4-{trans-2-[bis(cyclopropylmethyl)amino]cyclopropyl}phenyl)biphenyl-4-carboxamide hydrochloride | 26.1 mg | Cl.C1(CC1)CN([C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CC1CC1 | InChI=1S/C30H32N2O.ClH/c33-30(26-12-10-24(11-13-26)23-4-2-1-3-5-23)31-27-16-14-25(15-17-27)28-18-29(28)32(19-21-6-7-21)20-22-8-9-22;/h1-5,10-17,21-22,28-29H,6-9,18-20H2,(H,31,33);1H/t28-,29+;/m0./s1
